US09193722B2
3-(4-(piperazin-1-yl)pyrimidin-2-yl)-1H-pyrazolo[3,4-b]pyridine (Compound 81)
A mixture of 3-(4-methylsulfinylpyrimidin-2-yl)-1H-pyrazolo[5,4-b]pyridine (45 mg, 0.17 mmol), tert-butyl piperazine-1-carboxylate (100 mg, 0.53 mmol) and potassium carbonate (100 mg, 0.72 mmol) in NMP (0.5 ml) were stirred at 125° C. for 60 minutes in the microwave. The reaction mixture was diluted with EtOAc and washed with saturated aqueous sodium bicarbonate and brine. After drying over MgSO4 and concentration the residue was taken up in DCM (2 ml) and treated with TFA (1 ml). The reaction was allowed to stir at RT for 3 hours and concentrated in vacuo. and the resultant residue was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 A column, gradient 10%-95% B (solvent A: 0.05% TFA in water, solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, passed through a sodium bicarbonate cartridge and freeze-dried to give the title compound as a pink solid (10 mg, 11% Yield).

reactant | 3-(4-methylsulfinylpyrimidin-2-yl)-1H-pyrazolo[5,4-b]pyridine | 0.17 mmol, 45 mg | CS(=O)C1=NC(=NC=C1)C1=NNC2=NC=CC=C21 | C11H9N5OS
reactant | tert-butyl piperazine-1-carboxylate | 0.53 mmol, 100 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-(piperazin-1-yl)pyrimidin-2-yl)-1H-pyrazolo[3,4-b]pyridine | 10 mg, 11% Yield | N1(CCNCC1)C1=NC(=NC=C1)C1=NNC2=NC=CC=C21 | C14H15N7
